US05719152
(S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(methoxycarbonylmethyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 9-7) was performed with methyl 4-tert-butoxycarbonylaminomethyl-2-methoxycarbonylmethylaniline (7.63 g, 22.51 mmol) and (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (6.03 g, 21.43 mmol) to give 8.02 g of the title compound (61%).

reactant | methyl 4-tert-butoxycarbonylaminomethyl-2-methoxycarbonylmethylaniline | 22.51 mmol, 7.63 g | CNC1=C(C=C(C=C1)CNC(=O)OC(C)(C)C)CC(=O)OC | C16H24N2O4
reactant | (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 21.43 mmol, 6.03 g | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(=O)O | C13H11BrN2O4
product | (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(methoxycarbonylmethyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 8.02 g, 61% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CC(=O)OC)=O | C28H31BrN4O7
